US09062070B2
5-Bromo-4-methyl-2-benzofuran-1(3H)-one (598 mg, 4.47 mmol), potassium vinyl trifluoroborate (507 mg, 2.23 mmol), PdCl2(dppf)-CH2Cl2Adduct (182 mg, 0.223 mmol), and TEA (0.622 mL, 4.47 mmol) were added to 10 mL ethanol in a 20 mL microwave tube. The tube was sealed and degassed, then heated to 140° C. for 20 min. Analysis by LC-MS showed product peak. The reaction mixture was diluted with ethyl acetate, washed with brine twice, dried and evaporated to dryness. The crude product was purified by MPLC chromatography using a 120 g Redi-sep column and 0-80% ETOAC/Hexane solvent system to yield 5-ethenyl-4-methyl-2-benzofuran-1(3H)-one. LC-MS: M+1=175.

reactant | 5-Bromo-4-methyl-2-benzofuran-1(3H)-one | 4.47 mmol, 598 mg | BrC1=C(C2=C(C(OC2)=O)C=C1)C | C9H7BrO2
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | 5-ethenyl-4-methyl-2-benzofuran-1(3H)-one | C(=C)C1=C(C2=C(C(OC2)=O)C=C1)C | C11H10O2
